US09108977B2
To 7.87 g of 3-(6-iodo-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)propanoic acid were added 200 ml of t-butanol, 7 ml of triethylamine, and 5 ml of diphenylphosphoryl azide, followed by heating and refluxing for 70 hours. The reaction mixture was cooled to room temperature, then diluted by the addition of water, and stirred, and the solid was collected by filtration and dried to obtain 9.49 g of t-butyl[2-(6-iodo-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)ethyl]carbamate as a pale brown solid. Further, the solid precipitated from the filtrate was collected by filtration to obtain 665 mg of t-butyl[2-(6-iodo-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)ethyl]carbamate as a white solid.

reactant | 3-(6-iodo-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)propanoic acid | 7.87 g | IC=1C=C2CCC(NC2=CC1CCC(=O)O)=O | C12H12INO3
reactant | t-butanol | 200 ml | C(C)(C)(C)O | C4H10O
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 5 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | water | O | H2O
product | t-butyl[2-(6-iodo-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)ethyl]carbamate | 9.49 g | C(C)(C)(C)OC(NCCC1=C(C=C2CCC(NC2=C1)=O)I)=O | C16H21IN2O3
